* /Users/camerontribe/Documents/Projects/HiFiAudio/LTSpice/use_this_for_simulations_on_Mac_test_doubleBASS.asc
V2 V+ 0 12
V3 0 V- 12
R1 N032 N008 50
R2 N027 N026 820
C1 N032 0 15µ
L1 N032 N033 82m Rser={Rseries}
C2 N033 0 15µ
R3 N033 0 50
R4 N026 0 1k
R5 N021 N008 50
C3 N021 N022 320n
L2 0 N021 1.5m
L3 0 N022 1.5m
C4 N028 0 22p
R9 N028 0 6.8k
R10 N038 N028 240
R11 N019 N025 6.8k
R12 0 N019 240
V5 N024 0 SINE(0 .1 100) AC 1
R13 N009 N008 50
L4 0 N009 39m Rser=80
L5 0 N011 39m Rser=80
C5 N009 0 680n
C6 N011 0 680n
L6 N009 N010 3.3m Rser=13
C7 N010 N011 6.8µ
R6 N016 N015 820
R7 N022 0 50
R8 N015 0 1k
R14 N002 N001 3.3k
R15 N011 0 50
R16 N001 0 1k
R21 N004 N003 {R}
R22 N003 N007 2.9k
R23 N002 N007 12k
R17 N018 N017 {R}
R18 N017 N020 1.2k
R19 N016 N020 12k
R20 N030 N029 {R}
R24 N029 N031 1.2k
R25 N027 N031 3.3k
R26 N004 N012 100
R27 N018 N023 100
R28 N030 NC_01 100
C8 N008 N024 1000µ
XU1 N011 N001 V+ V- N002 LT1001
XU2 0 N007 V+ V- N004 LT1001
XU3 N022 N015 V+ V- N016 LT1001
XU4 0 N020 V+ V- N018 LT1001
XU5 N033 N026 V+ V- N027 LT1001
XU6 0 N031 V+ V- N030 LT1001
XU7 N028 N019 V+ V- N025 LT1001
C9 N014 0 22p
R29 N014 0 6.8k
R30 N005 N013 6.8k
R31 0 N005 240
XU8 N014 N005 V+ V- N013 LT1001
R32 N006 N014 240
R37 N062 N039 50
C12 N062 N063 320n
L8 0 N062 1.5m
L9 0 N063 1.5m
V1 N064 0 SINE(0 .1 200) AC 1
R42 N051 N039 50
L10 0 N051 38m
L11 0 N053 38m
C14 N051 0 660n
C15 N053 0 660n
L12 N051 N052 3.3m
C16 N052 N053 7.4µ
R43 N058 N057 1k
R44 N063 0 50
R45 N057 0 1k
R46 N044 N043 1k
R47 N053 0 50
R48 N043 0 1k
R49 N046 N045 {R}
R50 N045 N050 2k
R51 N044 N050 10k
R52 N060 N059 {R}
R53 N059 N061 2k
R54 N058 N061 10k
R58 N046 N054 100
R59 N060 N054 100
C17 N039 N064 100µ
XU9 N053 N043 V+ V- N044 LT1001
XU10 0 N050 V+ V- N046 LT1001
XU11 N063 N057 V+ V- N058 LT1001
XU12 0 N061 V+ V- N060 LT1001
C18 N056 0 22p
R61 N056 0 6.8k
R62 N048 N055 6.8k
R63 0 N048 240
XU16 N056 N048 V+ V- N055 LT1001
R64 N049 N056 240
R33 N037 N047 100
R34 N040 N039 50
C10 N040 0 16µ
L7 N040 N041 80m Rser={Rseries}
C11 N041 0 16µ
R35 N041 0 50
R36 N035 N034 1k
R39 N034 0 1k
XU13 N041 N034 V+ V- N035 LT1001
R38 N037 N036 {R}
R40 N036 N042 1.2k
XU14 0 N042 V+ V- N037 LT1001
R41 N035 N042 10k
R55 NC_02 N038 100
R56 N038 NC_03 100
R65 N047 NC_04 100
.ac dec 1000 1 300k
* .step param R 80 .1 -20
.param R 10k
.param Rseries 200
* .tran .1
.lib LTC.lib
.backanno
.end
