* /Users/camerontribe/Documents/Projects/HiFiAudio/LTSpice/use_this_for_simulations_on_Mac_test_doubleBASS.asc
V2 V+ 0 12
V3 0 V- 12
R1 N031 N008 50
R2 N026 N025 1.2k
C1 N031 0 15µ
L1 N031 N032 82m Rser=212
C2 N032 0 15µ
R3 N032 0 50
R4 N025 0 1k
R5 N020 N008 50
C3 N020 N021 320n
L2 0 N020 1.5m Rser=6.1
L3 0 N021 1.5m Rser=6.1
C4 N027 0 22p
R9 N027 0 6.8k
R10 N037 N027 240
R11 N018 N024 6.8k
R12 0 N018 240
V5 N023 0 SINE(0 1 1000) AC 1
R13 N009 N008 50
L4 0 N009 39m Rser=80
L5 0 N011 39m Rser=80
C5 N009 0 680n
C6 N011 0 680n
L6 N009 N010 3.3m Rser=13
C7 N010 N011 6.8µ
R6 N015 N014 820
R7 N021 0 50
R8 N014 0 1k
R14 N002 N001 3.3k
R15 N011 0 50
R16 N001 0 1k
R21 N004 N003 {R}
R22 N003 N007 2.7k
R23 N002 N007 12k
R17 N017 N016 {R}
R18 N016 N019 1.2k
R19 N015 N019 12k
R20 N029 N028 {R}
R24 N028 N030 2.7k
R25 N026 N030 3.9k
R26 N004 N006 100
R27 N017 N022 100
R28 N029 NC_01 100
C8 N008 N023 100µ
XU1 N011 N001 V+ V- N002 LT1001
XU2 0 N007 V+ V- N004 LT1001
XU3 N021 N014 V+ V- N015 LT1001
XU4 0 N019 V+ V- N017 LT1001
XU5 N032 N025 V+ V- N026 LT1001
XU6 0 N030 V+ V- N029 LT1001
XU7 N027 N018 V+ V- N024 LT1001
C9 N013 0 22p
R29 N013 0 6.8k
R30 N005 N012 6.8k
R31 0 N005 240
XU8 N013 N005 V+ V- N012 LT1001
R32 N006 N013 240
R37 N061 N038 50
C12 N061 N062 320n
L8 0 N061 1.5m
L9 0 N062 1.5m
V1 N063 0 SINE(0 .1 200) AC 1
R42 N050 N038 50
L10 0 N050 38m
L11 0 N052 38m
C14 N050 0 660n
C15 N052 0 660n
L12 N050 N051 3.3m
C16 N051 N052 7.4µ
R43 N057 N056 1k
R44 N062 0 50
R45 N056 0 1k
R46 N043 N042 1k
R47 N052 0 50
R48 N042 0 1k
R49 N045 N044 {R}
R50 N044 N049 2k
R51 N043 N049 10k
R52 N059 N058 {R}
R53 N058 N060 2k
R54 N057 N060 10k
R58 N045 N053 100
R59 N059 N053 100
C17 N038 N063 100µ
XU9 N052 N042 V+ V- N043 LT1001
XU10 0 N049 V+ V- N045 LT1001
XU11 N062 N056 V+ V- N057 LT1001
XU12 0 N060 V+ V- N059 LT1001
C18 N055 0 22p
R61 N055 0 6.8k
R62 N047 N054 6.8k
R63 0 N047 240
XU16 N055 N047 V+ V- N054 LT1001
R64 N048 N055 240
R33 N036 N046 100
R34 N039 N038 50
C10 N039 0 16µ
L7 N039 N040 80m Rser={Rseries}
C11 N040 0 16µ
R35 N040 0 50
R36 N034 N033 1k
R39 N033 0 1k
XU13 N040 N033 V+ V- N034 LT1001
R38 N036 N035 {R}
R40 N035 N041 1.2k
XU14 0 N041 V+ V- N036 LT1001
R41 N034 N041 10k
R55 NC_02 N037 100
R56 N037 NC_03 100
R65 N046 NC_04 100
.ac dec 1000 1 300k
* .step param R 80 .1 -20
.param R 10k
.param Rseries 200
* .tran 0 .01 0 1e-6
.lib LTC.lib
.backanno
.end
